US08202633B2
Into a flask, 2.53 g of 9,10-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolanyl)anthracene, 2 g of 5-bromo-2,3′-bipyridine, 960 mg of Pd(PPh3)4, 3.81 g of tripotassium phosphate, 60 ml of dioxane, and 15 ml of pure water were put, and the solution was stirred at reflux temperature for 3 days under argon atmosphere. After heating, the reaction liquid was cooled to room temperature, pure water was added, and then the organic layer was extracted. The organic layer was concentrated in an evaporator, the concentrates were purified by column chromatography, yellow powders which were concentrated again and obtained were washed by toluene, and thus 800 mg of 9,10-bis(2,3′-bipyridine-5-yl)anthracene was obtained. 1H-NMR (CDCl3) δ 7.4-7.6 (m, 6H), 7.2-7.3 (m, 4H), 8.0 (d, 4H), 8.5 (s, 2H), 8.8 (d, 4H), 9.4 (s, 2H).

reactant | 9,10-bis(4,4,5,5-tetramethyl-1,3,2-dioxaborolanyl)anthracene | 2.53 g | CC1(OB(OC1(C)C)C=1C2=CC=CC=C2C(=C2C=CC=CC12)B1OC(C(O1)(C)C)(C)C)C | C26H32B2O4
reactant | 5-bromo-2,3′-bipyridine | 2 g | BrC=1C=CC(=NC1)C=1C=NC=CC1 | C10H7BrN2
reactant | tripotassium phosphate | 3.81 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | dioxane | 60 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 960 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | water | 15 ml | O | H2O
product | 9,10-bis(2,3′-bipyridine-5-yl)anthracene | 800 mg | N1=C(C=CC(=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C=1C=CC(=NC1)C=1C=NC=CC1)C=1C=NC=CC1 | C34H22N4
